US07115635B2
Synthesis of 5-(3-aminophenyl)-1,3,4-oxadiazole-2-thiol
3-Aminobenzhydrazide (5.76 g) was dissolved in ethanol (40 mL), and triethylamine (4.8 mL) and carbon disulfide (2.1 mL) were added to the solution. The mixture was heated under reflux for 4 hrs. The solvent was evaporated, and water was added. The precipitated solids were collected by filtration to give the title compound (5.06 g) as a pale-yellow powder.

reactant | 3-Aminobenzhydrazide | 5.76 g | NC=1C=C(C(=O)NN)C=CC1 | C7H9N3O
reactant | triethylamine | 4.8 mL | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 2.1 mL | C(=S)=S | CS2
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 5-(3-aminophenyl)-1,3,4-oxadiazole-2-thiol | 5.06 g | NC=1C=C(C=CC1)C1=NN=C(O1)S | C8H7N3OS
